US05777113
g)1. 63.5 g (0. 195 mol) of a 21% solution of sodium ethylate in toluene are added dropwise at room temperature under nitrogen to a solution of 69.7 g (0.13 mol) of 2,4-bis[N-(2,2,6,6-tetramethyl-4-piperidinyl)butylamino]-6-chloro-1,3,5-triazine [EP-A-314 472, Sankyo] in 400 ml of toluene. The reaction mixture is then refluxed for 20 hours. After cooling to room temperature, the reaction mixture is washed successively with water, 1N sodium hydrogen carbonate solution and saturated sodium chloride solution. The organic phases are combined, dried over potassium carbonate and concentrated on a vacuum rotary evaporator. Crystallisation of the residue from acetonitrile gives 52.2 g (74%) of 2-ethoxy-4,6-bis[N-(2,2,6,6-tetramethyl-4-piperidinyl)butylamino]-1,3,5-triazine, m.p. 95°-104° C., in the form of a white powder. 1H-NMR (300 MHz, CDCl3): δ=4.345 ppm (q, J=7 Hz) --OCH2CH3.

reactant | sodium ethylate | CC[O-].[Na+]
reactant | 2,4-bis[N-(2,2,6,6-tetramethyl-4-piperidinyl)butylamino]-6-chloro-1,3,5-triazine | 0.13 mol, 69.7 g | CC1(NC(CC(C1)CCCCNC1=NC(=NC(=N1)NCCCCC1CC(NC(C1)(C)C)(C)C)Cl)(C)C)C | C29H54ClN7
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2-ethoxy-4,6-bis[N-(2,2,6,6-tetramethyl-4-piperidinyl)butylamino]-1,3,5-triazine | 52.2 g, 74% | C(C)OC1=NC(=NC(=N1)NCCCCC1CC(NC(C1)(C)C)(C)C)NCCCCC1CC(NC(C1)(C)C)(C)C | C31H59N7O
